### PR TITLE
[Merged by Bors] - chore: deprime `induction` in `Computability.TuringDegree`

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
[Found](https://github.com/leanprover-community/mathlib4/actions/runs/15200666975/job/42754098883) as the only new cases of `induction'` with four or more named arguments after #23324.

### CODE REVIEW

File: Mathlib/Computability/TuringDegree.lean [hunk 1]
```diff
@@ -94,26 +94,19 @@ open scoped Computability
...
-    apply RecursiveIn.comp ih₁ ih₂
-  · case prec =>
-    apply RecursiveIn.prec ih₁ ih₂
-  · case rfind =>
-    apply RecursiveIn.rfind ih
+  induction pF; repeat {constructor}
+  case pair ih₁ ih₂ => exact RecursiveIn.pair ih₁ ih₂
+  case comp ih₁ ih₂ => exact RecursiveIn.comp ih₁ ih₂
+  case prec ih₁ ih₂ => exact RecursiveIn.prec ih₁ ih₂
+  case rfind ih => exact RecursiveIn.rfind ih
```
Comment (digama0) [inline Mathlib/Computability/TuringDegree.lean:101]:
```suggestion
  induction pF with repeat constructor
  | pair ih₁ ih₂ => exact RecursiveIn.pair ih₁ ih₂
  | comp ih₁ ih₂ => exact RecursiveIn.comp ih₁ ih₂
  | prec ih₁ ih₂ => exact RecursiveIn.prec ih₁ ih₂
  | rfind ih => exact RecursiveIn.rfind ih
```

File: Mathlib/Computability/TuringDegree.lean [hunk 2]
```diff
@@ -183,20 +171,14 @@ private instance : Preorder (ℕ →. ℕ) where
...
-      apply RecursiveIn.comp ih₁ ih₂
-    · case prec =>
-      apply RecursiveIn.prec ih₁ ih₂
-    · case rfind =>
-      apply RecursiveIn.rfind ih
+    induction pF; repeat {constructor}
+    case pair ih₁ ih₂ => exact RecursiveIn.pair ih₁ ih₂
+    case comp ih₁ ih₂ => exact RecursiveIn.comp ih₁ ih₂
+    case prec ih₁ ih₂ => exact RecursiveIn.prec ih₁ ih₂
+    case rfind ih => exact RecursiveIn.rfind ih
```
Comment (Parcly-Taxel) [inline Mathlib/Computability/TuringDegree.lean:184]:
```suggestion
    induction pF with repeat constructor
    | pair ih₁ ih₂ => exact RecursiveIn.pair ih₁ ih₂
    | comp ih₁ ih₂ => exact RecursiveIn.comp ih₁ ih₂
    | prec ih₁ ih₂ => exact RecursiveIn.prec ih₁ ih₂
    | rfind ih => exact RecursiveIn.rfind ih
```

File: Mathlib/Computability/TuringDegree.lean [hunk 3]
```diff
@@ -183,20 +171,14 @@ private instance : Preorder (ℕ →. ℕ) where
...
   instPartialOrderAntisymmetrization
 
-@[simp] lemma recursiveIn_empty_iff_partrec : RecursiveIn {} f ↔ Nat.Partrec f  where
+@[simp] lemma recursiveIn_empty_iff_partrec : RecursiveIn {} f ↔ Nat.Partrec f where
   mp fRecInNone := by
-    induction' fRecInNone with g hg g h _ _ ih₁ ih₂ g h _ _ ih₁ ih₂ g h _ _ ih₁ ih₂ g _ ih
-    repeat {constructor}
-    · simp at hg
+    induction fRecInNone; repeat {constructor}
+    case oracle hg => simp at hg
```
Comment (Parcly-Taxel) [inline Mathlib/Computability/TuringDegree.lean:177]:
```suggestion
    induction fRecInNone with repeat constructor
    | oracle hg => simp at hg
```

**Review by YaelDillies — APPROVED** [review]
Very nice how it is shorter!

maintainer merge

File: Mathlib/Computability/TuringDegree.lean [hunk 4]
```diff
@@ -183,20 +171,14 @@ private instance : Preorder (ℕ →. ℕ) where
...
   instPartialOrderAntisymmetrization
 
-@[simp] lemma recursiveIn_empty_iff_partrec : RecursiveIn {} f ↔ Nat.Partrec f  where
+@[simp] lemma recursiveIn_empty_iff_partrec : RecursiveIn {} f ↔ Nat.Partrec f where
   mp fRecInNone := by
-    induction' fRecInNone with g hg g h _ _ ih₁ ih₂ g h _ _ ih₁ ih₂ g h _ _ ih₁ ih₂ g _ ih
-    repeat {constructor}
-    · simp at hg
+    induction fRecInNone with repeat {constructor}
+    | oracle _ hg => simp at hg | pair | comp | prec | rfind
```
Comment (eric-wieser) [inline Mathlib/Computability/TuringDegree.lean:177]:
```suggestion
    | oracle _ hg => simp at hg
    | pair | comp | prec | rfind =>
```
seems clearer to me, with indents below.

File: Mathlib/Computability/TuringDegree.lean [hunk 5]
```diff
@@ -183,20 +171,15 @@ private instance : Preorder (ℕ →. ℕ) where
...
-@[simp] lemma recursiveIn_empty_iff_partrec : RecursiveIn {} f ↔ Nat.Partrec f  where
+@[simp] lemma recursiveIn_empty_iff_partrec : RecursiveIn {} f ↔ Nat.Partrec f where
   mp fRecInNone := by
-    induction' fRecInNone with g hg g h _ _ ih₁ ih₂ g h _ _ ih₁ ih₂ g h _ _ ih₁ ih₂ g _ ih
-    repeat {constructor}
-    · simp at hg
+    induction fRecInNone with repeat {constructor}
+    | oracle _ hg => simp at hg
+    | pair | comp | prec | rfind =>
     repeat {constructor; assumption; try assumption}
```
Comment (eric-wieser) [inline Mathlib/Computability/TuringDegree.lean:179]:
```suggestion
    | pair | comp | prec | rfind =>
      repeat {constructor; assumption; try assumption}
```

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

**Comment by Parcly-Taxel** [comment]
bors merge
